US07109190B2
(7R)-7-[(Z) 2-(2-amino-5-chlorothiazol-4-yl)-2-(hydroxyimino]acetamido]-3-[1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A solution of trifluoroacetic acid (5 mL), triethylsilane (3 mL) and dichloromethane (8 mL) was cooled to 0° C. and (7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]acetamido]-3-[1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo-[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester (1.5 g) was added in portions. The reaction mixture was stirred at 0° C. for 3 hours, was allowed to warm up to room temp. and was evaporated to dryness. The residue was treated with diethyl ether (50 mL), and the solid that formed was filtered and dried to give the crude product. The crude product was purified on HP 20 initially with water elution until the pH was neutral, and thereafter with acetonitrile:water 80:20 to give the title compound (0.63 g.)

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (7R)-7-[(Z)-2-(2-amino-5-chlorothiazol-4-yl)-2-(triphenylmethoxyimino]acetamido]-3-[1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo-[4.2.0]oct-2-ene-2-carboxylate diphenylmethyl ester | 1.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C([C@@H](C2CCC1SC=1SC=NN1)NC(\C(=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=1N=C(SC1Cl)N)=O)=O | C47H36ClN7O5S3
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (7R)-7-[(Z) 2-(2-amino-5-chlorothiazol-4-yl)-2-(hydroxyimino]acetamido]-3-[1,3,4-thiadiazol-2-ylthio]-8-oxo-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.63 g | NC=1SC(=C(N1)/C(/C(=O)N[C@@H]1C2CCC(=C(N2C1=O)C(=O)O)SC=1SC=NN1)=N/O)Cl | C15H12ClN7O5S3
